US09340538B2
Step C: Ethyl 4-(2-bromo-4-fluorophenyl)-6-((3-(3-hydroxy-2-(hydroxymethyl)propyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.34 g, 0.68 mmol) was reacted with 2-(morpholin-3-ylmethyl)propane-1,3-diol (0.12 g, 0.68 mmol) according to the procedure as described in Example 25, Step B to give the title compound as a yellow solid (0.18 g, 44%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.68 mmol, 0.34 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC=CN1 | C17H14Br2FN3O2S
reactant | 2-(morpholin-3-ylmethyl)propane-1,3-diol | 0.68 mmol, 0.12 g | N1C(COCC1)CC(CO)CO | C8H17NO3
product | Ethyl 4-(2-bromo-4-fluorophenyl)-6-((3-(3-hydroxy-2-(hydroxymethyl)propyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.18 g, 44% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CN1C(COCC1)CC(CO)CO)C=1SC=CN1 | C25H30BrFN4O5S
